US07723330B2
Step G: Preparation of N-(2-chloro-5-fluoro-4-(3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A solution of N-(4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-2-chloro-5-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (100 mg, 0.138 mmol) was dissolved in TFA (2 mL) and the solution was heated to 50° C. for 1 hour. Excess TFA was evaporated and the crude material was dissolved in EtOAc. The organic layer washed with saturated aqueous NaHCO3, brine, dried with Na2SO4, filtered and concentrated to afford a yellow solid. The solid washed with diethyl ether to afford the product (35 mg, 41.9% yield) as a yellow solid. LRMS (APCI pos) m/e 607.0 (M+H). 1H NMR (DMSO-d6, 400 MHz) δ 12.32 (s, 1H), 12.22 (s, 1H), 8.70 (d, 1H), 8.42 (dd, 12H), 8.17 (d, 1H), 7.91 (d, 1H), 7.74-7.67 (m, 2H), 7.49-7.41 (m, 2H), 6.17-6.13 (m, 1H), 5.23-5.18 (m, 1H), 3.60-3.42 (m, 1H), 2.85-2.73 (m, 2H), 2.20 (s, 3H), 2.10-1.96 (m, 4H), 1.65-1.53 (m, 2H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-2-chloro-5-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.138 mmol, 100 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=CC(=C(C=C3F)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)Cl)NC3CCN(CC3)C)C=C1 | C37H33ClF2N8O4
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(2-chloro-5-fluoro-4-(3-(1-methylpiperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 35 mg, 41.9% yield | ClC1=C(C=C(C(=C1)OC1=C2C(=NC=C1)NN=C2NC2CCN(CC2)C)F)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C29H25ClF2N8O3
